US04555572
A solution of 10.5 g of 4-ethoxyaniline in 250 ml acetonitrile was added over a 1.5 hour period to a solution of 20 g of 2,6-dichloro-3,5-dinitrobenzoic acid and 11 g of N,N-diisopropylethylamine in 400 ml of acetonitrile and stirred at room temperature for five hours. After the solvent was removed in vacuo, the residue was dissolved in 500 ml of chloroform and extracted with several portions of 5% ammonium hydroxide. The aqueous extracts were washed with chloroform and acidified with dilute acid. The resulting solid was collected by filtration and was washed with water to provide 2-chloro-6-[(4-ethoxyphenyl)amino]-3,5-dinitrobenzoic acid, mp 202°-206° C.

reactant | 4-ethoxyaniline | 10.5 g | C(C)OC1=CC=C(N)C=C1 | C8H11NO
reactant | 2,6-dichloro-3,5-dinitrobenzoic acid | 20 g | ClC1=C(C(=O)O)C(=C(C=C1[N+](=O)[O-])[N+](=O)[O-])Cl | C7H2Cl2N2O6
reactant | N,N-diisopropylethylamine | 11 g | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
solvent | acetonitrile | 400 ml | C(C)#N | C2H3N
product | 2-chloro-6-[(4-ethoxyphenyl)amino]-3,5-dinitrobenzoic acid | ClC1=C(C(=O)O)C(=C(C=C1[N+](=O)[O-])[N+](=O)[O-])NC1=CC=C(C=C1)OCC | C15H12ClN3O7
